US06936602B1
To a solution of methyl 7-(4-butoxyethoxyphenyl)-1-(2-furylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylate (319 mg) in a mixture of tetrahydrofuran (21 ml) and methanol (21 ml) was added 1N sodium hydroxide solution (7 ml), and the mixture was stirred at room temperature for 5 days. Then, to the mixture was added water at 0° C., and 1N hydrochloric acid was further added to neutral, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, which was recrystallized from hexane-ethyl acetate to give 7-(4-butoxyethoxyphenyl)-1-(2-furylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (256 mg) as yellow crystals.

reactant | methyl 7-(4-butoxyethoxyphenyl)-1-(2-furylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 319 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC=2OC=CC2)C(=O)OC)C1 | C29H33NO5
reactant | sodium hydroxide | 1N, 7 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
solvent | methanol | 21 ml | CO | CH4O
product | 7-(4-butoxyethoxyphenyl)-1-(2-furylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 256 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC=2OC=CC2)C(=O)O)C1 | C28H31NO5
